US08222263B2
Anhydrous hydrochloric acid gas was bubbled into a suspension of N-(5-cyano-2-methylphenyl)-4-[(4-phenylquinazolin-2-yl)amino]benzamide (273 mg, 0.60 mmol), prepared as described in Example 10, in absolute ethanol (5 mL) for 10 min and the flask was affixed with a drying tube and allowed to stand in the refrigerator overnight. The reaction was concentrated on a rotary evaporator to give methyl 4-methyl-3-[({4-[(4-phenylquinazolin-2-yl)amino]phenyl}carbonyl)amino]benzenecarboximidoate as a yellow solid (311 mg, 100%). 1H NMR (400 MHz, DMSO-d6): δ 11.90 (br s, 1H), 11.20 (br s, 1H), 10.40 (s, 1H), 9.95 (s, 1H), 8.20 (t, 2H), 8.03 (t, 2H), 7.87 (m, 3H), 7.82 (m, 3H), 7.65 (t, 3H), 7.43 (dt, 1H), 7.38 (d, 1H), 4.30 (s, 3H), 2.42 (s, 3H). MS (EI) for C30H25N5O2: 488.1 (MH+).

reactant | hydrochloric acid | Cl | ClH
reactant | N-(5-cyano-2-methylphenyl)-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 0.60 mmol, 273 mg | C(#N)C=1C=CC(=C(C1)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O)C | C29H21N5O
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | methyl 4-methyl-3-[({4-[(4-phenylquinazolin-2-yl)amino]phenyl}carbonyl)amino]benzenecarboximidoate | 311 mg, 100% | CC1=C(C=C(C=C1)C(OC)=N)NC(=O)C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1 | C30H25N5O2
